### PR TITLE
[Merged by Bors] - doc(Field): add Stacks Project tags in Chapter 09FA Fields

### PR DESCRIPTION
**Pull request by jjdishere**
Add tags in Stacks Project Chapter 09FA Fields (before 0BMI Infinite Galois theory) to the corresponding Lean declarations.

Co-authored-by: Xuchun Li <li.xuchun@qq.com>
Co-authored-by: Yongle Hu <mbkybky@gmail.com>
Co-authored-by: Wanyi He <2100017455@stu.pku.edu.cn>
Co-authored-by: Youle Fang <eden@stu.pku.edu.cn>
Co-authored-by: Nailin Guan <3571819596@qq.com>
Co-authored-by: Yi Song <sif4delta0@mail.ustc.edu.cn>
Co-authored-by: Sihan Su <ssh@stu.pku.edu.cn>
Co-authored-by: Huanyu Zheng <suzuka@misaka-yu.com>
Co-authored-by: Jingting Wang <wangjingting2023@stu.pku.edu.cn>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Norm/Basic.lean [hunk 1]
```diff
@@ -289,6 +289,9 @@ lemma norm_eq_of_equiv_equiv {A₁ B₁ A₂ B₂ : Type*} [CommRing A₁] [Ring
 variable {F} (L)
 
 -- TODO. Generalize this proof to rings
+/--Let $F / L / K$ be a tower of finite extensions of fields. Then
+$\text{Norm}_{F/K} = \text{Norm}_{L/K} \circ \text{Norm}_{F/L}$.-/
+@[stacks 0BIJ "This is a special case of 0BIJ norm, we add separability here. "]
```
Comment (erdOne) [inline Mathlib/RingTheory/Norm/Basic.lean:294]:
```suggestion
@[stacks 0BIJ "This is a special case of 0BIJ norm, we require separability here. "]
```

File: Mathlib/RingTheory/Trace/Defs.lean [hunk 2]
```diff
@@ -152,7 +155,8 @@ section TraceForm
 variable (R S)
 
 /-- The `traceForm` maps `x y : S` to the trace of `x * y`.
-It is a symmetric bilinear form and is nondegenerate if the extension is separable. -/
+It is a symmetric bilinear form and is nondegenerate if the extension is separable.-/
+@[stacks 0BIK "Trace pairing"]
```
Comment (erdOne) [inline Mathlib/RingTheory/Trace/Defs.lean:159]: I'm confused by the purpose of the text after `@[stacks]`. Sometimes it is used to describe the difference from the stacks result and ours but I'm not sure what it's for here.

File: Mathlib/RingTheory/Polynomial/SeparableDegree.lean [hunk 3]
```diff
@@ -83,6 +84,7 @@ theorem HasSeparableContraction.dvd_degree : hf.degree ∣ f.natDegree :=
   Dvd.intro (q ^ a) ha
 
 /-- In exponential characteristic one, the separable degree equals the degree. -/
+@[stacks 09H5 "third part"]
```
Comment (erdOne) [inline Mathlib/RingTheory/Polynomial/SeparableDegree.lean:87]: I don't think this tag is right.

File: Mathlib/RingTheory/Polynomial/SeparableDegree.lean [hunk 4]
```diff
@@ -68,6 +68,7 @@ theorem HasSeparableContraction.isSeparableContraction :
     IsSeparableContraction q f hf.contraction := Classical.choose_spec hf
 
 /-- The separable degree divides the degree, in function of the exponential characteristic of F. -/
+@[stacks 09H5 "second part"]
```
Comment (erdOne) [inline Mathlib/RingTheory/Polynomial/SeparableDegree.lean:71]: I don't think this tag is right.

File: Mathlib/Algebra/Field/Basic.lean [hunk 5]
```diff
@@ -210,7 +210,9 @@ instance (priority := 100) Field.isDomain : IsDomain K :=
 end Field
 
 namespace RingHom
-
+/-- Any ring homomorphism `f : F → R` from a `DivisionRing F` to nonzero ring `R` is injective.
```
Comment (jjdishere) [inline Mathlib/Algebra/Field/Basic.lean:213]:
```suggestion

/-- Any ring homomorphism `f : F → R` from a `DivisionRing F` to nonzero ring `R` is injective.
```

File: Mathlib/RingTheory/IntegralClosure/IsIntegral/Basic.lean [hunk 6]
```diff
@@ -179,6 +179,7 @@ theorem isIntegral_iff_isIntegral_closure_finite {r : B} :
   rcases hr with ⟨s, _, hsr⟩
   exact hsr.of_subring _
 
+@[stacks 09GH]
 theorem fg_adjoin_of_finite {s : Set A} (hfs : s.Finite) (his : ∀ x ∈ s, IsIntegral R x) :
```
Comment (erdOne) [inline Mathlib/RingTheory/IntegralClosure/IsIntegral/Basic.lean:183]: I think either 02JJ or 00GM is more suitable here.

File: Mathlib/RingTheory/Ideal/Quotient/Basic.lean [hunk 7]
```diff
@@ -138,6 +138,7 @@ theorem maximal_of_isField (I : Ideal R) (hqf : IsField (R ⧸ I)) : I.IsMaximal
     exact J.sub_mem (J.mul_mem_right _ hxJ) (hIJ (Ideal.Quotient.eq.1 hy))
 
 /-- The quotient of a ring by an ideal is a field iff the ideal is maximal. -/
+@[stacks 09FF]
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Quotient/Basic.lean:141]: I don't think this tag is right.

File: Mathlib/RingTheory/Discriminant.lean [hunk 8]
```diff
@@ -63,6 +63,7 @@ section Discr
 `discr A ι b` as the determinant of `traceMatrix A ι b`. -/
 -- Porting note: using `[DecidableEq ι]` instead of `by classical...` did not work in
 -- mathlib3.
+@[stacks 0BIM]
```
Comment (erdOne) [inline Mathlib/RingTheory/Discriminant.lean:66]: I don't think this tag is right.

File: Mathlib/RingTheory/Coprime/Basic.lean [hunk 9]
```diff
@@ -35,6 +35,7 @@ variable {R : Type u} [CommSemiring R] (x y z : R)
 /-- The proposition that `x` and `y` are coprime, defined to be the existence of `a` and `b` such
 that `a * x + b * y = 1`. Note that elements with no common divisors are not necessarily coprime,
 e.g., the multivariate polynomials `x₁` and `x₂` are not coprime. -/
+@[stacks 09GX]
```
Comment (erdOne) [inline Mathlib/RingTheory/Coprime/Basic.lean:38]: I think this tag is a bit farfetched.

File: Mathlib/RingTheory/Algebraic.lean [hunk 10]
```diff
@@ -483,17 +486,20 @@ theorem Transcendental.of_tower_top {x : A} (h : Transcendental L x) :
...
 variable (K)
 
+@[stacks 09GG]
 theorem IsAlgebraic.of_finite (e : A) [FiniteDimensional K A] : IsAlgebraic K e :=
   (IsIntegral.of_finite K e).isAlgebraic
 
 variable (A)
 
 /-- A field extension is algebraic if it is finite. -/
+@[stacks 09GG]
```
Comment (erdOne) [inline Mathlib/RingTheory/Algebraic.lean:502]: I don't think this tag is right.

File: Mathlib/RingTheory/Algebraic.lean [hunk 11]
```diff
@@ -483,17 +486,20 @@ theorem Transcendental.of_tower_top {x : A} (h : Transcendental L x) :
     Transcendental K x := fun H ↦ h (H.tower_top L)
 
 /-- If A is an algebraic algebra over K, then A is algebraic over L when L is an extension of K -/
+@[stacks 09GF "part two"]
 theorem Algebra.IsAlgebraic.tower_top [Algebra.IsAlgebraic K A] : Algebra.IsAlgebraic L A :=
   Algebra.IsAlgebraic.tower_top_of_injective (algebraMap K L).injective
 
 variable (K)
 
+@[stacks 09GG]
```
Comment (erdOne) [inline Mathlib/RingTheory/Algebraic.lean:495]: I don't think this tag is right.

File: Mathlib/LinearAlgebra/Dimension/Finrank.lean [hunk 12]
```diff
@@ -50,8 +50,8 @@ For a vector space `M` over a field `R`, this is the same as the finite dimensio
 of `M` over `R`.
 
 Note that it is possible to have `M` with `¬(Module.Finite R M)` but `finrank R M ≠ 0`, for example
-`ℤ × ℚ/ℤ` has `finrank` equal to `1`.
--/
+`ℤ × ℚ/ℤ` has `finrank` equal to `1`. -/
+@[stacks 09G3 "second part"]
```
Comment (erdOne) [inline Mathlib/LinearAlgebra/Dimension/Finrank.lean:54]: Is this the second part? The second part seems to be defining what finite extensions are.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 13]
```diff
@@ -247,6 +250,7 @@ def embProdEmbOfIsAlgebraic [Algebra E K] [IsScalarTower F E K] [Algebra.IsAlgeb
 /-- If `K / E / F` is a field extension tower, such that `K / E` is algebraic, then their
 separable degrees satisfy the tower law
 $[E:F]_s [K:E]_s = [K:F]_s$. See also `Module.finrank_mul_finrank`. -/
+@[stacks 09HK "Part 1, `finDegree` variant"]
```
Comment (erdOne) [inline Mathlib/FieldTheory/SeparableDegree.lean:253]:
```suggestion
@[stacks 09HK "Part 1, `finSepDegree` variant"]
```

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 14]
```diff
@@ -621,7 +625,10 @@ theorem separableClosure_le (L : IntermediateField F E)
   exact y.2
 
 /-- If `E / F` is algebraic, then an intermediate field of `E / F` contains the
-separable closure of `F` in `E` if and only if `E` is purely inseparable over it. -/
+separable closure of `F` in `E` if and only if `E` is purely inseparable over it.
+
+Used to prove that the separable closure is the unique intermediate field that is separable
+downwards and purely inseparable upwards. This is the upwards part. -/
```
Comment (jjdishere) [inline Mathlib/FieldTheory/PurelyInseparable.lean:631]:
```suggestion
separable closure of `F` in `E` if and only if `E` is purely inseparable over it. -/
@[stacks 030K "This theorem implies the `E/E_sep`  is purely inseparable part." -/
```

File: Mathlib/FieldTheory/Separable.lean [hunk 15]
```diff
@@ -536,9 +538,9 @@ variable (F L K : Type*) [CommRing F] [Ring K] [Algebra F K]
 variable {K} in
 /--
 An element `x` of an algebra `K` over a commutative ring `F` is said to be *separable*, if its
-minimal polynomial over `K` is separable. Note that the minimal polynomial of any element not
-integral over `F` is defined to be `0`, which is not a separable polynomial.
--/
+minimal polynamial over `K` is separable. Note that the minimal polynomial of any element not
+integral over `F` is defined to be `0`, which is not a separable polynomial. -/
+@[stacks 09H1 "second part"]
```
Comment (jjdishere) [inline Mathlib/FieldTheory/Separable.lean:543]:
```suggestion
minimal polynomial over `K` is separable. Note that the minimal polynomial of any element not
integral over `F` is defined to be `0`, which is not a separable polynomial.
-/
@[stacks 09H1 "second part"]
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 16]
```diff
@@ -475,7 +475,7 @@ theorem card_orderOf_eq_totient_aux₂ {d : ℕ} (hd : d ∣ Fintype.card α) :
       sum_erase_lt_of_pos (mem_divisors.2 ⟨hd, hc0.ne'⟩) (totient_pos.2 (pos_of_dvd_of_pos hd hc0))
     _ = c := sum_totient _
 
-@[to_additive isAddCyclic_of_card_nsmul_eq_zero_le]
+@[to_additive isAddCyclic_of_card_nsmul_eq_zero_le, stacks 09HX "without abelian, only `≤`"]
```
Comment (jjdishere) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:478]:
```suggestion
@[to_additive isAddCyclic_of_card_nsmul_eq_zero_le, stacks 09HX "This theorem is stronger than \
09HX. It removes the abelian condition, and requires only `≤` instead of `=`."]
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 17]
```diff
@@ -227,6 +229,7 @@ def embEquivOfIsAlgClosed [Algebra.IsAlgebraic F E] [IsAlgClosed K] :
 
 /-- The `Field.finSepDegree F E` is equal to the cardinality of `E →ₐ[F] K` as a natural number,
 when `E / F` is algebraic and `K / F` is algebraically closed. -/
+@[stacks 09H9 "We use `finSepDegree` to state a more general result."]
 theorem finSepDegree_eq_of_isAlgClosed [Algebra.IsAlgebraic F E] [IsAlgClosed K] :
```
Comment (erdOne) [inline Mathlib/FieldTheory/SeparableDegree.lean:233]: This is 09HJ instead.

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 18]
```diff
@@ -130,13 +130,15 @@ variable (K : Type w) [Field K] [Algebra F K]
...
+of `E`.
+-/
 def Emb := E →ₐ[F] AlgebraicClosure E
 
 /-- If `E / F` is an algebraic extension, then the (finite) separable degree of `E / F`
 is the number of `F`-algebra homomorphisms from `E` to the algebraic closure of `E`,
 as a natural number. It is defined to be zero if there are infinitely many of them.
-Note that if `E / F` is not algebraic, then this definition makes no mathematical sense. -/
+Note that if `E / F` is not algebraic, then this definition makes no mathematical sense.
+-/
```
Comment (erdOne) [inline Mathlib/FieldTheory/SeparableDegree.lean:141]: I'm not sure if this is preferred.

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 19]
```diff
@@ -622,6 +626,7 @@ theorem separableClosure_le (L : IntermediateField F E)
 
 /-- If `E / F` is algebraic, then an intermediate field of `E / F` contains the
 separable closure of `F` in `E` if and only if `E` is purely inseparable over it. -/
+@[stacks 030K "This theorem implies the `E/E_sep`  is purely inseparable part." -/
```
Comment (jjdishere) [inline Mathlib/FieldTheory/PurelyInseparable.lean:629]:
```suggestion
@[stacks 030K "This theorem implies the `E/E_sep` is purely inseparable part." -/
```

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 20]
```diff
@@ -288,6 +296,7 @@ theorem sepDegree_eq_of_equiv (K : Type v) [Field K] [Algebra F K] (i : E ≃ₐ
 
 /-- The separable degree multiplied by the inseparable degree is equal
 to the (infinite) field extension degree. -/
+@[stacks 030L "Part 3"]
```
Comment (erdOne) [inline Mathlib/FieldTheory/SeparableClosure.lean:296]: I don't think this tag is right.

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 21]
```diff
@@ -176,6 +181,7 @@ theorem separableClosure.normalClosure_eq_self :
 
 /-- If `E` is normal over `F`, then the separable closure of `F` in `E` is Galois (i.e.
 normal and separable) over `F`. -/
+@[stacks 0EHK]
```
Comment (erdOne) [inline Mathlib/FieldTheory/SeparableClosure.lean:181]: I don't think this tag is right.

File: Mathlib/FieldTheory/Separable.lean [hunk 22]
```diff
@@ -611,11 +613,16 @@ variable [Field L] [Ring E] [Algebra F L]
...
 over `L`. -/
+@[stacks 09H2 "first part"]
 theorem IsSeparable.tower_top
     {x : E} (h : IsSeparable F x) : IsSeparable L x :=
   h.map.of_dvd (minpoly.dvd_map_of_isScalarTower _ _ _)
 
 variable (F E) in
+/-- If `E / K / F` is an extension tower, `E` is separable over `F`, then it's also separable
+over `K`.
+-/
```
Comment (erdOne) [inline Mathlib/FieldTheory/Separable.lean:625]:
```suggestion
over `K`. -/
```

File: Mathlib/FieldTheory/SeparableClosure.lean [hunk 23]
```diff
@@ -154,7 +156,10 @@ theorem le_separableClosure (L : IntermediateField F E) [Algebra.IsSeparable F L
     L ≤ separableClosure F E := le_separableClosure' F E (Algebra.IsSeparable.isSeparable F)
 
 /-- An intermediate field of `E / F` is contained in the separable closure of `F` in `E`
-if and only if it is separable over `F`. -/
+if and only if it is separable over `F`.
+
+Used to prove that the separable closure is the unique intermediate field that is separable
+downwards and purely inseparable upwards. This is the downwards part. -/
```
Comment (jjdishere) [inline Mathlib/FieldTheory/SeparableClosure.lean:162]:
```suggestion
if and only if it is separable over `F`. -/
```

File: Mathlib/FieldTheory/Separable.lean [hunk 24]
```diff
@@ -462,6 +463,7 @@ theorem nodup_roots_iff_of_splits {f : F[X]} (hf : f ≠ 0) (h : f.Splits (RingH
 
 /-- If a non-zero polynomial over `F` splits in `K`, then it has no repeated roots on `K`
 if and only if it is separable. -/
+@[stacks 09H3 "Here we only require `f` splits instead of `K` is algebraic closure."]
```
Comment (erdOne) [inline Mathlib/FieldTheory/Separable.lean:466]:
```suggestion
@[stacks 09H3 "Here we only require `f` splits instead of `K` is algebraically closed."]
```

File: Mathlib/FieldTheory/RatFunc/Degree.lean [hunk 25]
```diff
@@ -36,6 +36,7 @@ variable [Field K]
 /-- `intDegree x` is the degree of the rational function `x`, defined as the difference between
 the `natDegree` of its numerator and the `natDegree` of its denominator. In particular,
 `intDegree 0 = 0`. -/
+@[stacks 09G6]
```
Comment (erdOne) [inline Mathlib/FieldTheory/RatFunc/Degree.lean:39]: I don't think this tag is right.

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 26]
```diff
@@ -878,6 +886,7 @@ theorem finSepDegree_eq [Algebra.IsAlgebraic F E] :
 
 /-- The finite separable degree multiply by the finite inseparable degree is equal
 to the (finite) field extension degree. -/
+@[stacks 030L "Part 3, `finDegree` variant"]
```
Comment (erdOne) [inline Mathlib/FieldTheory/PurelyInseparable.lean:886]:
```suggestion
@[stacks 030L "Part 3, `ℕ`-valued variant"]
```

I don't thinks this tag is right.

File: Mathlib/FieldTheory/PurelyInseparable.lean [hunk 27]
```diff
@@ -867,6 +874,7 @@ namespace Field
 as a natural number. This means that the cardinality of `Field.Emb F E` and the degree of
 `(separableClosure F E) / F` are both finite or infinite, and when they are finite, they
 coincide. -/
+@[stacks 09HJ "The definition of both side in 09HJ is exaclty the same as in this lemma."]
```
Comment (erdOne) [inline Mathlib/FieldTheory/PurelyInseparable.lean:874]:
```suggestion
@[stacks 09HJ "The definition of both side in 09HJ is exactly the same as in this lemma."]
```
Or maybe "`sepDegree` is defined as the right hand side of 09HJ"

**Review by erdOne — COMMENTED** [review]
Gone through the second half.

File: Mathlib/RingTheory/Trace/Defs.lean (hunk 2 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Trace/Defs.lean:159]: I think we should use it to describe the difference. But there are many kinds of differences. The difference in naming, in content (the mathlib theorem is only a part of theorem in stacks project) and in hypothesis.

File: Mathlib/RingTheory/Polynomial/SeparableDegree.lean (hunk 3 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Polynomial/SeparableDegree.lean:87]: I see. This lemma corresponds to the content written in the small paragraph right following 09H5.

```
The separable degree of P always divides the degree and the quotient is a power of the characteristic. If the characteristic is zero, then degs(P)=deg(P).
```

There is no tag in Stacks Project for this small paragraph. I'll just remove this tag.

File: Mathlib/RingTheory/Polynomial/SeparableDegree.lean (hunk 4 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Polynomial/SeparableDegree.lean:71]: Same as above.

File: Mathlib/RingTheory/IntegralClosure/IsIntegral/Basic.lean (hunk 6 above)
Comment (jjdishere) [reply Mathlib/RingTheory/IntegralClosure/IsIntegral/Basic.lean:183]: Thanks! Fixed!

File: Mathlib/RingTheory/Ideal/Quotient/Basic.lean (hunk 7 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Ideal/Quotient/Basic.lean:141]: Again, this corresponds to the first paragraph 

To get started, let us begin by providing several examples of fields. The reader should recall that if R is a ring and I⊂R an ideal, then R/I is a field precisely when I is a maximal ideal.

in section 09FF. This tag is for the whole section. I'll delete this tag.

File: Mathlib/RingTheory/Coprime/Basic.lean (hunk 9 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Coprime/Basic.lean:38]: I agree. Removed.

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 28]
```diff
@@ -23,6 +23,7 @@ This file defines bundled isomorphisms of `R`-algebras.
 universe u v w u₁ v₁
 
 /-- An equivalence of algebras is an equivalence of rings commuting with the actions of scalars. -/
+@[stacks 09HR]
```
Comment (erdOne) [inline Mathlib/Algebra/Algebra/Equiv.lean:26]: I don't think this tag is right.

File: Mathlib/RingTheory/Algebraic.lean (hunk 10 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Algebraic.lean:502]: I believe this theorem aligns with the first part `A finite extension is algebraic` of the 09GG statement.

A finite extension is algebraic. In fact, an extension E/k is algebraic if and only if every subextension k(α)/k generated by some α∈E is finite.

I'll add a comment saying it is the first part.

File: Mathlib/RingTheory/Algebraic.lean (hunk 11 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Algebraic.lean:495]: Thanks. Removed.

File: Mathlib/RingTheory/Discriminant.lean (hunk 8 above)
Comment (jjdishere) [reply Mathlib/RingTheory/Discriminant.lean:66]: Thanks! This is the discriminant of an element with respect to a certain basis. The discriminant of a field should its value when a = 1. Or more precisely, its image in `K/(K*)^2`.

Comment (jjdishere) [reply Mathlib/RingTheory/Discriminant.lean:66]: Removed.

File: Mathlib/LinearAlgebra/Dimension/Finrank.lean (hunk 12 above)
Comment (jjdishere) [reply Mathlib/LinearAlgebra/Dimension/Finrank.lean:54]: Thanks! Removed.

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 17 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/SeparableDegree.lean:233]: Thanks! Nice catch!

File: Mathlib/FieldTheory/SeparableDegree.lean (hunk 18 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/SeparableDegree.lean:141]: I'll follow the original author's style at the beginning. If the author uses 
```
/-- foo
```
then it should be
```
bar. -/
```
If the author uses
```
/--
foo
```
then it should be
```
bar.
-/
```

Comment (jjdishere) [reply Mathlib/FieldTheory/SeparableDegree.lean:141]: The inconsistency here is caused by we originally wrote Stacks links in the comments. When we changed to the stacks attribute, we didn't delete the line breaks correctly.

File: Mathlib/FieldTheory/SeparableClosure.lean (hunk 20 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/SeparableClosure.lean:296]: Thanks. Again, this is stated in the paragraph right following 030L

Of course in characteristic 0 we have [E:F]=[E:F]s and [E:F]i=1. By multiplicativity (Lemma [09G9](https://stacks.math.columbia.edu/tag/09G9)) we have

[E:F]=[E:F]s[E:F]i
even in case some of these degrees are infinite. In fact, the separable degree and the inseparable degree are multiplicative too (see Lemma [09HK](https://stacks.math.columbia.edu/tag/09HK)).

File: Mathlib/FieldTheory/SeparableClosure.lean (hunk 21 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/SeparableClosure.lean:181]: Thanks. This is typo. This should be `0EXK`.

Comment (jjdishere) [reply Mathlib/FieldTheory/SeparableClosure.lean:181]: Fixed.

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 26 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/PurelyInseparable.lean:886]: Removed. It is the paragraph following 030L.

File: Mathlib/FieldTheory/PurelyInseparable.lean (hunk 27 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/PurelyInseparable.lean:874]: Thanks. Fixed.

File: Mathlib/Algebra/Algebra/Equiv.lean (hunk 28 above)
Comment (jjdishere) [reply Mathlib/Algebra/Algebra/Equiv.lean:26]: 09HR writes:
Let E/F be an extension of fields. Then Aut(E/F) or AutF(E) denotes the automorphism group of E as an object of the category of F-extensions. Elements of Aut(E/F) are called automorphisms of E over F or automorphisms of E/F.

In mathlib, we do use `AlgEquiv` for Aut(E/F)?

Comment (jjdishere) [reply Mathlib/Algebra/Algebra/Equiv.lean:26]: I added a comment 
"This generalize beyond the field case in 09HR. In mathlib, we use `AlgEquiv` to denote Aut(E/F)."

Comment (erdOne) [reply Mathlib/Algebra/Algebra/Equiv.lean]: `AlgEquiv` is more than `Aut(E/F)`.  
I think this tag should be moved to the group instance on `AlgEquiv F E E`.

Comment (jjdishere) [reply Mathlib/Algebra/Algebra/Equiv.lean]: Yes. I'll do it.

Comment (jjdishere) [reply Mathlib/Algebra/Algebra/Equiv.lean]: Fixed.

File: Mathlib/FieldTheory/KummerExtension.lean [hunk 29]
```diff
@@ -146,6 +146,10 @@ theorem pow_ne_of_irreducible_X_pow_sub_C {n : ℕ} {a : K}
     Nat.cast_injective.eq_iff] at hq
   exact hm' ((mul_eq_right₀ (mul_ne_zero_iff.mp hn).2).mp hq)
 
+/--Let `p` be a prime number. Let `F` be a field.
+Let `t ∈ F` be an element which does not have a `p`th root in `F`.
+Then the polynomial `x ^ p - t` is irreducible over `F`.-/
+@[stacks 09HF]
```
Comment (erdOne) [inline Mathlib/FieldTheory/KummerExtension.lean:152]: Note that we don't require char K = p here.

Comment (jjdishere) [reply Mathlib/FieldTheory/KummerExtension.lean:152]: Thanks! Added in the comments.

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 30]
```diff
@@ -620,6 +618,8 @@ end OfRingEquiv
 
 -- Porting note: projections mul & one not found, removed [simps] and added theorems manually
 -- @[simps (config := .lemmasOnly) one]
+@[stacks 09HR "This generalize beyond the field case in 09HR. In mathlib, we use `AlgEquiv F E E` \
+to denote the automorphism group Aut(E/F)."]
```
Comment (erdOne) [inline Mathlib/Algebra/Algebra/Equiv.lean:622]: I think this comments needs to be amended (or removed)

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 31]
```diff
@@ -74,6 +74,10 @@ namespace IsAlgClosed
 
 variable {k}
 
+/--
+If `k` is algebraically closed, then every nonconstant polynomial has a root.
+-/
+@[stacks 09GR "(4) ⟹ (3)"]
```
Comment (erdOne) [inline Mathlib/FieldTheory/IsAlgClosed/Basic.lean:80]: I was confused at first. Maybe tag `IsAlgClosed` with `09GR` saying that we are using (4) as the official def instead?

**Comment by erdOne** [comment]
Thanks a lot (to all the co-authors) for doing this! Hope there are more to come :)
I think I have gone through all the tags and the PR looks good to me modulo the two open comments.

File: Mathlib/Algebra/Algebra/Equiv.lean (hunk 30 above)
Comment (jjdishere) [reply Mathlib/Algebra/Algebra/Equiv.lean:622]: Thanks! I'll remove the comments.

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean (hunk 31 above)
Comment (jjdishere) [reply Mathlib/FieldTheory/IsAlgClosed/Basic.lean:80]: Also modified the tags before `IntermediateField.eq_bot_of_isAlgClosed_of_isAlgebraic` to @[stacks 09GQ "The result is the definition of algebraically closedness in Stacks Project. \
This statement is 09GR (4) ⟹ (1)."]

**Comment by jjdishere** [comment]
Thank you @erdOne for reviewing this PR and checking all the tags carefully!

**Comment by erdOne** [comment]
maintainer merge

File: Mathlib/Algebra/CharP/Basic.lean [hunk 32]
```diff
@@ -170,6 +170,7 @@ end CharZero
 
 namespace Fin
 
+@[stacks 09FS "The characteristic of `F_p` is p."]
```
Comment (kim-em) [inline Mathlib/Algebra/CharP/Basic.lean:173]: I don't understand why this string isn't just a doc-string.

Comment (jjdishere) [reply Mathlib/Algebra/CharP/Basic.lean:173]: Oh, I think this should be modified to "First part. We don't require p is a prime is mathlib."

Comment (jjdishere) [reply Mathlib/Algebra/CharP/Basic.lean:173]: 09FS is 
The characteristic of Fp is p, and that of Q is 0.

This is the copy of the first half of the sentence.

Comment (jjdishere) [reply Mathlib/Algebra/CharP/Basic.lean]: Fixed two 09FS tag.

**Comment by kim-em** [comment]
bors merge
